Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting and diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with CML, s/p allogeneic stem cell transplant 
(___) D 161 with post transplant period complicated by upper 
and lower GI GVH (biopsy ___, s/p treatment with 
steroids, currently on cyclosporine 25 in am,50 in pm and 
atovaquone, who presents with persistent nausea, vomiting, and 
diarrhea. Also notes to have possible worsening ecchymosis on 
forerms. She is admitted from clinic for steroid treatment and 
monitoring. Hct in clinic was 20.8 and she was transfused 2 
units blood. She was admitted from clinic for steroids and 
monitoring and to complete transfusions.
Presents with a 5 day hx of nausea, vomiting and 3 days of loose 
stools. Pthad been feeling unwell since ___. this 
started with abdominal pains in the central abdomen which were 
intermittent cramping pains lasting a few minutes and then 
returning. There was no radiation and at that point there was 
mild nausea and following breakfast vomited x1 non-bilious and 
no blood. The pain was associated with eating and drinking and 
had no relieving factors but worse when drinking water. The 
pains have been intermittent since and have been at worst a 
___. On ___ the pains and nausea persisted and 
vomited x1 in the same pattern after eating cereal.
___ vomited x1 with dinner and started having loose stools. 
She has opened bowels 2x per day -stool was not watery but a lot 
softer and there was no blood - she normally opens her bowels 
once per day. Appetite has not been good since her transplant 
and this was mildly worse over the past week. She notes 
abdominal pain today and is worse on mobilising. She has only 
had one bowel movement today. She has been able to drink 
sufficient fluids. At clinic, her ecchymoses on her arms were 
felt to be worse although the patient herself has not noticed a 
significant difference.
.
Review of Systems:
(+) Per HPI but notes continuing "sniffles" with some nasal 
congestion. Notes tingling in finger and in feet which has been 
present since her transplant.
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea. Denies 
chest pain or tightness, palpitations. Denies cough, worse 
shortness of breath, or wheezes. Denies constipation. No recent 
change in bladder habits. No dysuria or hematuria. Denies 
arthralgias or myalgias. Denies rashes or skin breakdown. No 
numbness. No feelings of depression or anxiety. All other review 
of systems negative.
 
Past Medical History:
Past Oncologic History:
- ___: Asymptomatic abnormal CBC noted by PCP during routine
visit
- ___: Bone marrow biopsy showed myeloproliferative
disorder, likely chronic myelogenous leukemia. Per patient
report, began taking interferon three times weekly shortly
after diagnosis.
- ___: Started ___ 400 mg daily. At some point
thereafter, her dose was increased to 600 mg daily
- ___: ___ increased to 400 mg twice daily with
hydroxyurea and allopurinol
- ___: Seen at ___, found to be
in late chronic phase CML. Stem cell transplant was
recommended, but she did not wish to pursue this course.
- ___: Gleevec held due to worsening anemia and
thrombocytosis. Started on Nilotinib
- ___: Nilotinib held due to QTC prolongation, started on
Dasatinib
- ___: First seen at ___. Bone marrow biopsy showed
accelerated phase CML. began induction chemo with 7+3.
- ___: Admission for MRD SCT
- ___: Discharged on day +32. Transplant complicated by
mucositis with biopsy of the esophagus suggesting upper GI
GVHD which was treated with steroids.
- ___: Admission for GVH of the gut, verified by biopsy
on ___
- ___: Discharge on methylprednisolone and cyclosporine
.
Other Past Medical History:
- CML diagnosed in ___ - had a siblinng allo SCT in ___
- atherosclerotic coronary vascular disease - no angina
- status post CABG in ___
- hypertension
- hyperlipidemia
- DVT in L leg ___ years ago - was seemingly treated for this and 
occurred after hitting her foot?
P Surgical Hx
- Right ankle surgery in ___
- Total abdominal hysterectomy in ___
- Appendectomy at age ___
No problems with GA
 
Social History:
___
Family History:
- father - died of MI, nil other health problems
- mother - had heart problems, DM
Four siblings
- 2 bothers had CABG
- 1 brother prostate cancer
- Her sister ___ is her donor and is well
 
Physical Exam:
VS: T 97.8 BP 122/78 HR 118 RR18 sO2 99% RA weight 133lb
GENERAL: Fatigued, pleasant, conversant, well groomed, in no 
acute distress
HEENT: EOMI, PERRL 3+/3+ sclera anicteric, oropharynx moist and 
without lesions, tongue coated with no thrush
NECK: Without masses, thyromegaly
LYMPH: No cervical, supraclavicular, axillary, inguinal 
lymphadenopathy
RS: Respirations unlabored. Clear to auscultation bilaterally
___: Regular rate and rhythm, normal S1 and S2, no murmurs, 
rubs, or gallops no carotid bruits. JVP mildly depressed at 2cm 
above sternal angle.
GIS: Soft, non-tender, non-distended. Normal bowel sounds. No 
hepatosplenomegaly
EXT: No clubbing, cyanosis, brittle nails with 1+ pitting edema 
to mid-shins bilaterally
SKIN: ecchymosis on forearms bilaterally - pt states not new.
CNS:
Alert and oriented x3
Some wasting of proximal musculature secondary to general disuse 
followinng transplant - having ___.
Tone normal UL and LL
Reflexes normal in UL and lower limb save absent AJs 
bilaterally. Plantar reflexes are flexor bilaterally.
Power difficult to assess as some give way weakness but somme 
mild 4+/5 weakness in shoulder abduction, 4+/5 in elbow 
extension on R, bilateral ___ worse on R finger extension, ___ 
bilateral hip flexion, 4+/5 knee extension on R and otherwise 
normal power. Mild generalised weakness.
Decreased temp sensation to knee on R and mid shin on L, normal 
vibration sensation and light touch otherwise.
CN II- XII normal save intorsion of left eye in primary 
position. Fields generally normal but poor participation.
 
Pertinent Results:
___ 01:25PM BLOOD WBC-4.7 RBC-2.14* Hgb-7.1* Hct-20.2* 
MCV-94 MCH-33.0* MCHC-35.0 RDW-23.0* Plt ___
___ 06:00AM BLOOD WBC-2.2*# RBC-2.36* Hgb-7.3* Hct-20.5* 
MCV-87# MCH-30.9 MCHC-35.5* RDW-23.2* Plt Ct-60*
___ 09:20AM BLOOD WBC-2.2* RBC-2.46* Hgb-7.6* Hct-21.6* 
MCV-88 MCH-30.8 MCHC-35.0 RDW-23.4* Plt Ct-64*
___ 08:45PM BLOOD Hct-26.1*
___ 07:45AM BLOOD WBC-1.9* RBC-2.97* Hgb-9.2* Hct-26.3* 
MCV-89 MCH-30.9 MCHC-34.9 RDW-21.0* Plt Ct-59*
___ 06:30AM BLOOD WBC-2.5* RBC-3.29* Hgb-9.9* Hct-29.1* 
MCV-89 MCH-30.3 MCHC-34.1 RDW-19.9* Plt Ct-61*
___ 01:25PM BLOOD Neuts-61 Bands-6* Lymphs-16* Monos-13* 
Eos-0 Baso-0 ___ Metas-3* Myelos-1* NRBC-4*
___ 06:00AM BLOOD Neuts-67 Bands-6* ___ Monos-4 Eos-1 
Baso-0 ___ Metas-2* Myelos-1*
___ 09:20AM BLOOD Neuts-68 Bands-0 Lymphs-15* Monos-9 Eos-0 
Baso-0 Atyps-1* Metas-1* Myelos-6* NRBC-2*
___ 07:45AM BLOOD Neuts-55 Bands-8* ___ Monos-5 Eos-0 
Baso-0 ___ Metas-6* Myelos-7* NRBC-2*
___ 06:30AM BLOOD Neuts-64 Bands-1 Lymphs-12* Monos-5 Eos-0 
Baso-0 ___ Metas-16* Myelos-1* Other-1*
___ 01:25PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-2+ Tear Dr-1+ 
Ellipto-OCCASIONAL
___ 06:00AM BLOOD Hypochr-2+ Anisocy-3+ Poiklo-2+ 
Macrocy-2+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-OCCASIONAL 
Tear Dr-1+
___ 09:20AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-OCCASIONAL Microcy-OCCASIONAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 07:45AM BLOOD Hypochr-NORMAL Anisocy-3+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-2+
___ 06:30AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-2+ 
Macrocy-1+ Microcy-2+ Polychr-1+ Target-OCCASIONAL Stipple-1+ 
Tear Dr-1+ Fragmen-OCCASIONAL
___ 06:30AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-2+ 
Macrocy-1+ Microcy-2+ Polychr-1+ Target-OCCASIONAL Stipple-1+ 
Tear Dr-1+ Fragmen-OCCASIONAL
___ 06:00AM BLOOD ___ PTT-24.7 ___
___ 07:45AM BLOOD ___ PTT-21.5* ___
___ 06:30AM BLOOD ___ PTT-21.5* ___
___ 07:45AM BLOOD Ret Aut-5.1*
___ 01:25PM BLOOD ___ ___
___ 06:00AM BLOOD ___
___ 01:25PM BLOOD UreaN-17 Creat-0.7 Na-138 K-4.0 Cl-105 
HCO3-24 AnGap-13
___ 06:00AM BLOOD Glucose-133* UreaN-11 Creat-0.5 Na-142 
K-4.0 Cl-110* HCO3-22 AnGap-14
___ 07:45AM BLOOD Glucose-101* UreaN-18 Creat-0.5 Na-140 
K-3.6 Cl-110* HCO3-22 AnGap-12
___ 06:30AM BLOOD Glucose-146* UreaN-23* Creat-0.6 Na-142 
K-4.1 Cl-108 HCO3-23 AnGap-15
___ 01:25PM BLOOD ALT-63* AST-46* LD(___)-358* AlkPhos-87 
TotBili-0.7
___ 06:00AM BLOOD ALT-65* AST-40 LD(___)-301* AlkPhos-74 
TotBili-0.7
___ 07:45AM BLOOD ALT-89* AST-54* LD(LDH)-334* AlkPhos-82 
TotBili-0.6
___ 06:30AM BLOOD ALT-145* AST-76* LD(LDH)-366* AlkPhos-105 
TotBili-0.6
___ 01:25PM BLOOD Albumin-4.0 Calcium-9.1 Phos-3.6 Mg-1.6
___ 06:00AM BLOOD Albumin-3.4* Calcium-8.3* Phos-4.3 
Mg-1.5*
___ 07:45AM BLOOD Albumin-3.3* Calcium-8.9 Phos-4.2 Mg-1.6
___ 06:30AM BLOOD Albumin-3.7 Calcium-8.9 Phos-4.0 Mg-1.5*
___ 07:45AM BLOOD Hapto-117
___ 06:00AM BLOOD Cyclspr-LESS THAN 
___ 06:30AM BLOOD Cyclspr-44*
___ 09:45AM BLOOD Cyclspr-LESS THAN 
.
.
Urine
.
___ 03:13AM URINE RBC-0 WBC-3 Bacteri-FEW Yeast-NONE Epi-<1
___ 03:13AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 03:13AM URINE Color-Straw Appear-Clear Sp ___
.
.
Cardiology ReportECGStudy Date of ___  7:20:40 ___
 
Sinus rhythm. Poor R wave progression may be a normal variant. 
Otherwise,
normal tracing. Compared to the previous tracing of ___ no 
significant
change.
.
.
Microbiology
.
___ 1:25 pm Immunology (CMV)

   CMV Viral Load (Pending): 
.

___ 3:13 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROBACTER AEROGENES.    >100,000 ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER AEROGENES
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
.
BC ___ x2 pending - no growth to date
.
___ 9:57 am STOOL     CONSISTENCY: SOFT
      Source: Stool OVA AND PARASITES 1 OF 3. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
 
Brief Hospital Course:
___ with CML, s/p allogeneic SCT D 163 (on discharge) with 
post-transplant period complicated by upper and lower GI GVH 
(biopsy ___, s/p treatment with steroids, currently on 
cyclosporin 50 in am, 25 in pm and atovaquone, who presents with 
persistent nausea, vomitting, and diarrhea. Anemic on 
presentation and transfused 2 units of RCC and following a 
seemingly inadequate response on lab tests received a further 2 
units. Started on IV methylprednisolone for ? GVHD and converted 
to an oral steroid taper. Cyclosporin level increased due to low 
level. Deranged LFTs noted and will be repeated in community. 
Found to have an enterobacter UTI and commenced on a 3 days 
course of oral levofloxacin.
.
#Nausea, vomiting and diarrhea: Presented with 5 days of 
symptoms which were improving on admission. For concerns of GVHD 
(see previous history) she was started on IV methylprednisolone 
30mg bid and this was converted to an oral prednisone taper 
following resolution of symptoms by the day after admission. PRN 
ondansetron for nausea. She was found to have moderate LeukE on 
UA although there were only 3WBCs on urine microscopy. She was 
commenced on a 3-day course of oral levofloxacin for her UTI 
(note sensitive to ciprofloxacin on sensitivity testing). Stool 
cultures were negative.
.
#Anemia: She was noted to have a Hb/Hct of 7.1/20.2 in clinic 
and was transfused 2 units RCC. Post transfusion HCt was only 
20.5 (cause unclear) and she received a further 2 units RCC with 
post transfusion labs Hb 9.9 HCt 29.1. Retic count was suitably 
elevated for degree of anemia and other hemolysis screen was 
negative.
.
# CML #/p stem cell transplant: continue acyclovir 400 mg Tablet 
q8 and atovaquone [Mepron] 750 mg/5 mL Suspension 10 ml by mouth 
daily. Will follow with Dr ___ on ___.
.
# Possible GVHD: Her symptoms were thought to perhaps represent 
mild GVHD although the presence of a UTI may be the cause. She 
was started on a IV methylprednisolone and converted to an oral 
steroid taper. Her cyclosporin dose was increased to 50mg am 
75mg pm following a low cyclosporin level of <30. Continued 
budesonide.
.
#Elevated LFTs: She was noted to have deranged LFTs on admission 
which were not present on previous laboratory testing. There was 
evidence of a transaminitis and increased during admission. She 
will have her blood repeated on ___ with results faxed to Dr 
___.
.
# Likely peripheral neuropathy: Tingling in hands and feet, 
absent AJs and decreased temp sensation to mid shins 
bilaterally. Likely secondary to chemo.
.
#HTN: continued metoprolol tartrate 50 mg Tablet bid and 
nifedipine [Nifediac CC] 90 mg Tablet Sustained Release DAILY
 
Medications on Admission:
-acyclovir 400 mg Tablet q8
-atovaquone [Mepron] 750 mg/5 mL Suspension 10 ml by mouth daily
-budesonide [Entocort EC] 3 mg Capsule, Sust. Release 24 hr TID
-cyclosporine modified [Neoral] 25 mg Capsule; 1 capsule in the 
morning and 2 capsules at night
-lorazepam 0.5 mg Tablet, ___ Tablet(s) by mouth once a day
-metoprolol tartrate 50 mg Tablet bid
-nifedipine [Nifediac CC] 90 mg Tablet Sustained Release DAILY
-omeprazole 20 mg Capsule, 2 Capsule(s) by mouth DAILY (Daily)
-docusate sodium [Colace] 100 mg Capsule bid prn
-magnesium oxide-Mg AA chelate [Mg-Plus-Protein] 133 mg Tablet, 
2 Tablet(s) by mouth twice a day
-senna 8.6 mg Tablet, 1 Tablet(s) by mouth twice a day as needed 
for constipation
- Multivitamin 1 tab daily
 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
2. budesonide 3 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO TID (3 times a day).  
3. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO DAILY (Daily).  
4. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
5. nifedipine 30 mg Tablet Sustained Release Sig: Three (3) 
Tablet Sustained Release PO DAILY (Daily).  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. magnesium oxide 140 mg Capsule Sig: Two (2) Capsule PO BID 
(2 times a day).  
11. atovaquone 750 mg/5 mL Suspension Sig: Two (2)  PO DAILY 
(Daily).  
12. cyclosporine modified 25 mg Capsule Sig: Two (2) Capsule PO 
QAM (once a day (in the morning)).  
13. cyclosporine modified 25 mg Capsule Sig: Three (3) Capsule 
PO QPM (once a day (in the evening)).  
14. prednisone 20 mg Tablet Sig: Two (2) Tablet PO bid () for 1 
days.
Disp:*2 Tablet(s)* Refills:*0*
15. prednisone 10 mg Tablet Sig: Three (3) Tablet PO bid () for 
1 days.
Disp:*6 Tablet(s)* Refills:*0*
16. prednisone 10 mg Tablet Sig: Two (2) Tablet PO bid () for 1 
days.
Disp:*4 Tablet(s)* Refills:*0*
17. prednisone 10 mg Tablet Sig: One (1) Tablet PO bid () for 1 
days.
Disp:*2 Tablet(s)* Refills:*0*
18. levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
19. Outpatient Lab Work
CBC, LFTs (Bili, Alk Phos, AST, ALT, Albumin) ___, PTT, INR and 
Chem7 to be taken on ___.
Please faxe F.A.O Dr ___ ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
UTI
Anemia requiring transfusion
Deranged LFTs ? cause - will need repeated
Nausea, vomiting and diarrhea ? GVHD
.
Secondary diagnoses:
CML post siblinng allo SCT in ___ complicated by gut GVHD
atherosclerotic coronary vascular disease
s/p CABG in ___
hypertension
hyperlipidemia
s/p DVT in L leg 
s/p Right ankle surgery
s/p Total abdominal hysterectomy
s/p Appendectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted following 5 days of nausea, vomiting and 
softer stools. Your blood tests showed anemia and you received 2 
units of blood. For some reason, your repeat blood count was not 
quite high enough and the day after admission you received a 
further 2 units of blood. Your symptoms quickly resolved and 
your post-transfusion blood count was good. It was initially 
felt that  although mild, your symptoms have have been due to 
GVHD and you were started on IV steroids and this was changed to 
oral prednisone which we are tapering down. You were found to 
have a low cyclosporin level and your cyclosporin was increased. 
Your urine had some bacteria in it which may have been the cause 
of your symptoms ___ will be treated with 3 days of 
antibiotics (levofloxacin) for this. You were found to have 
mildly abnormal liver function tests and you should have these 
repeated on ___ and the result should be faxed to Dr ___. 
You have an appointment to see Mr ___ NP on ___ who will 
review you and an appointment to see Dr ___ on ___. we 
will call you tonight regarding whether you need to take a 
different dose of your cyclosporin following today's level. 

Changes to medications:
We increased your cyclosporin to 50mg in the morning and 75mg at 
night
Started oral prednisone which we are tapering down you should 
take 40mg this pm, 30mg twice daily on ___, 20mg twice daily 
on ___ and 10mg twice daily on ___ after which you will stop. 

Instructions:
If you have further symptoms or spike a fever please contact 
your primary oncologist, or, if out of hours, the BMT Fellow on 
call.
You should have your blood tests repeated on ___ locally and 
faxed to Dr ___ on ___.
 
Followup Instructions:
___